US05414130
2.5 g of 5-methoxy-2,4-diaminophenol and 25 mL of concentrated HCl is placed in a 45 mL Hastalloy C autoclave. The mixture is then heated to 140° C. for 16 hours at a pressure of about 200 psi. The reaction mixture is then cooled to 25° C., the reactor is vented and the product, a white solid, is filtered and dried to yield 1.2 g of crude 4,6-diaminoresorcinol dihydrochloride.

reactant | 5-methoxy-2,4-diaminophenol | 2.5 g | COC=1C(=CC(=C(C1)O)N)N | C7H10N2O2
reactant | HCl | 25 mL | Cl | ClH
product | 4,6-diaminoresorcinol dihydrochloride | 1.2 g | Cl.Cl.NC1=C(C=C(O)C(=C1)N)O | InChI=1S/C6H8N2O2.2ClH/c7-3-1-4(8)6(10)2-5(3)9;;/h1-2,9-10H,7-8H2;2*1H
